US04711895
54 mg of 4-butyl-4-t-butyldimethylsilyloxy-2-chloro-2-cyclopentenone was dissolved in 2 ml of dry tetrahydrofuran, and the solution was cooled to -78° C. With stirring, a lithium diisopropyl amide solution was added. At -78° C., the mixture was stirred for 30 minutes. A solution of 50 mg of methyl 7-oxoheptanoate in 1 ml of dry tetrahydrofuran was added, and the mixed solution was stirred at -78° C. to -50° C. for 1 hour. A saturated aqueous solution of ammonium chloride was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After filtration and concentration, the residue was chromatographed on a silica gel column (silica gel 30 g; hexane:ethyl acetate=50:1→10:1) to give 29 mg (yield 33%) of a low polarity isomer of 4-butyl-2-chloro-5-(1-hydroxy-6-methoxycarbonylhexyl)-4-trimethylsilyloxy-2-cyclopentenone and 17 mg (yield 20%) of its high polarity isomer.

reactant | 4-butyl-4-t-butyldimethylsilyloxy-2-chloro-2-cyclopentenone | 54 mg | C(CCC)C1(C=C(C(C1)=O)Cl)O[Si](C)(C)C(C)(C)C | C15H27ClO2Si
reactant | lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl 7-oxoheptanoate | 50 mg | O=CCCCCCC(=O)OC | C8H14O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-butyl-2-chloro-5-(1-hydroxy-6-methoxycarbonylhexyl)-4-trimethylsilyloxy-2-cyclopentenone | yield 33% | C(CCC)C1(C=C(C(C1C(CCCCCC(=O)OC)O)=O)Cl)O[Si](C)(C)C | C20H35ClO5Si
